US08937083B2
Preparation of N-ethyl-N-(1-methyl-3-(pyridin-3-yl)-1H-pyrazol-5-yl)isobutyramide (Compound 23)
To a solution of N-(1-methyl-3-(pyridine-3-yl)-1H-pyrazol-5-yl)isobutyramide (0.08 g, 0.33 mmol) in DMF (0.66 ml) at 0° C. was added sodium hydride (0.016 g, 0.39 mmol, 60% dispersion in mineral oil) in one portion and the suspension was stirred for 30 minutes. The ice bath was removed and stirred for an additional 30 minutes. Iodoethane (0.06 g, 0.39 mmol) was added in one portion and stirred overnight at room temperature. Water and ethyl acetate were added and the resulting biphasic mixture was separated. The aqueous layer was extracted one time with ethyl acetate. The combined organic extracts were washed with brine, dried (MgSO4), filtered and concentrated to dryness. The crude product was purified by silica gel chromatography to give the title compound as a clear oil (27.5 mg, 30%): 1H NMR (300 MHz, CDCl3) δ 9.00 (bs, 1H), 8.57 (s, 1H), 8.09 (dd, J=7.9 Hz, 1H), 7.34 (dd, 1H), 6.48 (s, 1H), 4.00 (m, 1H), 3.76 (s, 3H), 3.36 (m, 1H), 2.33 (m, 1H), 1.17 (t, J=7.1 Hz, 3H), 1.08 (t, J=6.7 Hz, 6H); ESIMS m/z 273 (M+H).

reactant | N-(1-methyl-3-(pyridine-3-yl)-1H-pyrazol-5-yl)isobutyramide | 0.33 mmol, 0.08 g | CN1N=C(C=C1NC(C(C)C)=O)C=1C=NC=CC1 | C13H16N4O
reactant | sodium hydride | 0.39 mmol, 0.016 g | [H-].[Na+]
reactant | Iodoethane | 0.39 mmol, 0.06 g | ICC | C2H5I
reactant | Water | O | H2O
solvent | DMF | 0.66 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-ethyl-N-(1-methyl-3-(pyridin-3-yl)-1H-pyrazol-5-yl)isobutyramide | 27.5 mg, 30% | C(C)N(C(C(C)C)=O)C1=CC(=NN1C)C=1C=NC=CC1 | C15H20N4O
